US07528163B2
Step B: N-(3,3-Dimethylbutyl)-2-[3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethylacetamide
To a solution of 29.0 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid in 1 mL DMF was added 23.0 mg HOBt, 32.3 mg N-Ethyl-3,3-dimethylbutan-1-lamine hydrochloride from the Step A above, 38.3 mg EDC, and 45.2 mg DIEA in that order. The mixture was stirred at room temperature for four hours and heated at 45° C. over night and purified by RP-HPLC using 70-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound. LC-MS: 4.29 min. (m/Z=402.4, 424.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 29.0 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 38.3 mg
reactant | DIEA | 45.2 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(3,3-Dimethylbutyl)-2-[3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]-N-ethylacetamide | CC(CCN(C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)(C)C)=O)=O)CC)(C)C | C23H35N3O3
